US04560679
N-methyl-2-[[2-(trimethylsilyl)ethyl]thio]ethyl amine
A solution of 400 mg (2.00 mmol) of N-formyl-2-[[2-(trimethylsilyl)ethyl]thio]ethyl amine in 5 ml of absolute diethyl ether is added under argon at 0° C. to a stirred slurry of 152 mg (4.00 mmol) of lithium aluminum hydride in 5 ml of the same solvent. After 1 hr at 20° C., the stirred reaction mixture is quenched by addition of 0.6 ml of water and 0.15 ml of 15% sodium hydroxide solution, the resulting precipitate is filtered off, washed with diethyl ether. The combined organic layers is evaporated in vacuo, and the residue is distilled to N-methyl-2-[[2-(trimethylsilyl)ethyl]thio]ethyl amine (350 mg, 93.5%).

reactant | N-formyl-2-[[2-(trimethylsilyl)ethyl]thio]ethyl amine | 2.00 mmol, 400 mg | C(=O)NCCSCC[Si](C)(C)C | C8H19NOSSi
reactant | lithium aluminum hydride | 4.00 mmol, 152 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
product | N-methyl-2-[[2-(trimethylsilyl)ethyl]thio]ethyl amine | CNCCSCC[Si](C)(C)C | C8H21NSSi
